// Exercise 3.11
// Run with:
//     spectre 3_11.scs
//     wavescan -datadir 3_11.raw
//
simulator lang=spectre
include "g25_scs.lib"
vdd (vdd 0) vsource dc=2.5 
vin ( in 0) vsource dc=2.5 
r1 (vdd out_long) resistor r=8K
r2 (vdd out_short) resistor r=8k
m1 (out_long in 0 0) nmos l=0.5u w=2u
m2 (out_short in 0 0) nmos l=0.25u w=1u
Inputsweep dc param=dc dev=vin start=0 stop=2.5 step=0.1 
save vin out_long out_short
// end
